US05380731
Dissolve isonipecotic acid methyl ester, hydrochloride (43.7 g, 243 mmol) in a minimum amount of water. Add potassium bicarbonate (24.3 g, 243 mmol) and warm the solution on a steam bath for 20 minutes. Evaporate the water in vacuo, treat the residue with methanol and filter. Evaporate the filtrate in vacuo to give isonipecotic acid methyl ester as a oily yellow solid.

reactant | isonipecotic acid methyl ester, hydrochloride | 243 mmol, 43.7 g | Cl.COC(C1CCNCC1)=O
reactant | potassium bicarbonate | 243 mmol, 24.3 g | C([O-])(O)=O.[K+]
solvent | water | O | H2O
product | isonipecotic acid methyl ester | COC(C1CCNCC1)=O | C7H13NO2
